data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2225,2467,[CH3:16][O:17][C:18](=[O:19])[CH-:20][O+:21]=[C:22]([C:23]#[N:24])[C:25]#[N:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:20]([C:18]([O:17][CH3:16])=[O:19])[O:21][C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,10.208789653740844,-62.2553880853848
745,807,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]3([C:20]([CH3:21])=[O:22])[O:23]1,water,298.15,13.223482290871624,-34.726306948174496
2703,3003,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([O+:22]=[C:23]([C:24](=[O:25])[O:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[C:34](=[O:35])[NH:36][CH3:37].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([C:24](=[O:25])[O:26][CH3:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[O:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:34](=[O:35])[NH:36][CH3:37],water,298.15,14.04210423882605,-58.4209794095796
5068,5756,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:17]([CH3:18])[CH:16]2[CH3:15],water,298.15,17.87877158826761,-0.5942527101050837
2072,2299,[CH3:1][C:2](=[O:3])[C:4](=[C:5]([c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:24][C:25](=[O:26])[C:27]([CH3:28])=[O+:29][N-:30][C:31]#[N:32]>>[CH3:1][C:2](=[O:3])[C:4]1([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:30]([C:31]#[N:32])[O:29][C:27]1([C:25]([CH3:24])=[O:26])[CH3:28],water,298.15,30.34087993978981,2.1793437720663764
1276,1397,[CH3:13][n+:14]1[n:15][o:16][c:17](=[O:18])[c-:19]1-[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:15]1[N:14]([CH3:13])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[C:17](=[O:18])[O:16]1,water,298.15,31.124686249661988,3.119720014901956
356,387,[CH3:11][C:12]#[N+:13][CH-:14][CH3:15].[Cl:1][C:2]1([Br:3])[C:4]#[C:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1>>[Cl:1][C:2]1([Br:3])[C:4]2=[C:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10]1)[CH:14]([CH3:15])[N:13]=[C:12]2[CH3:11],water,298.15,8.445662144142863,-80.911963601419
1107,1205,[CH3:15][C-:16]([C:17]#[N:18])[NH+:19]=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[CH:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:19][C:16]2([CH3:15])[C:17]#[N:18],water,298.15,10.36781587993204,-27.04548998834884
1925,2133,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23]>>[Br:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:18]([C:19]#[N:20])([C:21]([CH3:22])=[O:23])[NH:17][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,22.129255661000208,-15.094313285084905
4893,5577,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]#[N:21])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,13.909358415471766,-24.105060532589235
5155,5853,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[o+:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]1([c:24]3[cH:25][cH:26][cH:27][cH:28][cH:29]3)[C:21](=[O:22])[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[O:30]1,water,298.15,10.268805369908357,-11.88826170183392
